US04612314
C. N2 -(4-methoxyphenyldiphenylmethyl)-9-(1,3-din-octanoyloxy-2-propoxymethyl)guanine
To a magnetically stirred solution of 1.05 g of N2 -(4-methoxyphenyldiphenylmethyl)-9-(1,3-dihydroxy-2-propoxymethyl)guanine and 25 mg of 4-dimethylaminopyridine in 30 ml of dry pyridine was added dropwise a solution of 1.2 g of n-octanoyl chloride in 10 ml of methylene chloride. After 15 hour, 1.5 ml of water was added and the solution concentrated at reduced pressure. The residue was chromatographed over silica gel eluting with 1:9 methanol:methylene chloride to give a white solid which was recrystallized from ethyl acetate:hexane to N2 -(4-methoxyphenyldiphenylmethyl)-9-(1,3-din-octanoyloxy-2-propoxymethyl)guanine.

reactant | N2 (4-methoxyphenyldiphenylmethyl)-9-(1,3-dihydroxy-2-propoxymethyl)guanine | 1.05 g | N#N.COC1=CC=C(C=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1NC(C=2N=CN(C2N1)COC(CO)CO)=O
reactant | n-octanoyl chloride | 1.2 g | C(CCCCCCC)(=O)Cl | C8H15ClO
reactant | water | 1.5 ml | O | H2O
catalyst | 4-dimethylaminopyridine | 25 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | N2 (4-methoxyphenyldiphenylmethyl)-9-(1,3-din-octanoyloxy-2-propoxymethyl)guanine | N#N.COC1=CC=C(C=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1NC(C=2N=CN(C2N1)COC(COC(CCCCCCC)=O)COC(CCCCCCC)=O)=O | InChI=1S/C45H57N5O7.N2/c1-4-6-8-10-18-24-39(51)55-30-38(31-56-40(52)25-19-11-9-7-5-2)57-33-50-32-46-41-42(50)47-44(48-43(41)53)49-45(34-20-14-12-15-21-34,35-22-16-13-17-23-35)36-26-28-37(54-3)29-27-36;1-2/h12-17,20-23,26-29,32,38H,4-11,18-19,24-25,30-31,33H2,1-3H3,(H2,47,48,49,53);
